US08076336B2
1-[3-Ethoxy-5-(pentafluorosulfanyl)phenyl]propan-1-one
3-Ethoxy-N-methoxy-N-methyl-5-(pentafluorosulfanyl)benzamide (O3.062; 170 mg) was dissolved in absolute THF (5 ml), and ethylmagnesium bromide (0.65 ml; 2 M in diethyl ether) was added dropwise at 0° C. while stirring. After addition, the ice bath was removed and the mixture was stirred at RT for 2 h. Then further ethylmagnesium bromide (0.1 ml) was added and the mixture was stirred once again for 2 h. While cooling, 1 N hydrochloric acid was subsequently added dropwise, followed by water and ethyl acetate. The organic phase was removed and the aqueous phase was extracted twice more with ethyl acetate. The combined extracts were dried over magnesium sulfate, filtered and concentrated. 150 mg of the desired compound were obtained.

reactant | 3-Ethoxy-N-methoxy-N-methyl-5-(pentafluorosulfanyl)benzamide | 170 mg | C(C)OC=1C=C(C(=O)N(C)OC)C=C(C1)S(F)(F)(F)(F)F | C11H14F5NO3S
reactant | ethylmagnesium bromide | 2 M, 0.65 ml | C(C)[Mg]Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-[3-Ethoxy-5-(pentafluorosulfanyl)phenyl]propan-1-one | 150 mg | C(C)OC=1C=C(C=C(C1)S(F)(F)(F)(F)F)C(CC)=O | C11H13F5O2S
